US06369069B1
b) Benzyl-(4-bromo-2-chlorobenzyl)amine
765 μl of benzylamine are dissolved in 10 ml of THF (anhydrous) and treated with 1.0 g of 4-bromo-1-bromomethyl-2-chlorobenzene at 0° C. and stirred at RT for 4 h. 100 ml of a half-saturated aqueous Na2CO3 solution are then added and the mixture is extracted three times with 100 ml of EA each time. It is dried over MgSO4 and chromatographed on silica gel using DIP. 590 mg of a colorless oil are obtained.

reactant | benzylamine | 765 μl | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-bromo-1-bromomethyl-2-chlorobenzene | 1.0 g | BrC1=CC(=C(C=C1)CBr)Cl | C7H5Br2Cl
reactant | Na2CO3 | 100 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | Benzyl-(4-bromo-2-chlorobenzyl)amine | 590 mg | C(C1=CC=CC=C1)NCC1=C(C=C(C=C1)Br)Cl | C14H13BrClN
